US04344946
2,6-Bis-(diethylaminoacetylamino)-benzo[1,2-d:5,4-d']bisthiazole by method B
1.0 gm of ethyl-3-(3-diethylamino-propyl)-carbodiimide was added to a suspension of 555 mgm of 2,6-diamino-benzo[1,2-d:5,4-d']bisthiazole and 655 mgm of N,N-diethyl-glycine in 20 ml of methylene chloride, and the mixture was stirred overnight at room temperature. After adding water and filtering off the precipitate, the methylene chloride phase was separated, dried, concentrated and chromatographed on a dry 10 gm-silicagel column with chloroform as the mobile phase. The title compound was collected in the first fractions and converted into the dihydrochloride by treatment with ethereal hydrochloric acid.

reactant | ethyl-3-(3-diethylamino-propyl)-carbodiimide | 1.0 gm | C(C)N=C=NCCCN(CC)CC | C10H21N3
reactant | 2,6-diamino-benzo[1,2-d:5,4-d']bisthiazole | NC=1SC=2C(N1)=CC=1N=C(SC1C2)N | C8H6N4S2
reactant | N,N-diethyl-glycine | C(C)N(CC(=O)O)CC | C6H13NO2
reactant | water | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2,6-Bis-(diethylaminoacetylamino)-benzo[1,2-d:5,4-d']bisthiazole | C(C)N(CC)CC(=O)NC=1SC=2C(N1)=CC=1N=C(SC1C2)NC(CN(CC)CC)=O | C20H28N6O2S2
